* source CHAPTER 9
C_CL         0 OUT  {Cload}  
M_M1         N00885 INN N00766 N00766 PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M1}
V_Vd         D 0 DC 0Vdc AC 1Vac 
M_M7         OUT N01450 VDD VDD PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M7}
E_Ep         INP N73627 D 0 0.5
C_Cc         N82248 OUT  {Cc}  
M_M4         A N00885 0 0 NMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M4}
E_En         N73627 INN D 0 0.5
M_M2         A INP N00766 N00766 PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M2}
M_M3         N00885 N00885 0 0 NMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M3}
R_R         A N82248  {R}  
I_Iref         N01450 0 DC {Iref}  
V_VCM         N73627 0 {VCM}
V_VCC         VDD 0 {VDD}
M_M6         OUT A 0 0 NMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M={M6}
M_M5         N00766 N01450 VDD VDD PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M5}
M_M8         N01450 N01450 VDD VDD PMOS0P5  
+ L=0.6u  
+ W=1.25u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M={M8}
.PARAM  VDD=3.3 Cload=1p M1=8 M2=8 Iref=90u M3=2 M4=2 M5=16 VCM=1.65 M6=4 M7=16
+  M8=16 R=1.52K Cc=0.6p
